US06417223B1
2,3,6-trimethylphenol (1.6 g, 11.8 mmol) was disolved in 50 mL of anhydrous methanol which had been deoxygenated by bubbling with nitrogen. Ammonium thiocyanate (2.2 g, 28,9 mmol) was added to this solution which was then cooled to 0° C. and bubbled with chlorine gas. The initially colorless homogeneous solution becomes pink and then green with the formation of a white precipitate. The solution was stirred for 1 h at 0° C. and then for a further hour at 20° C. The dissolved chlorine was removed by bubbling with nitrogen and the precipitate removed by filtration. Evaporation of the filtrate under reduced pressure followed by drying under high vacuum (0.1 torr) yielded 2.20 g (97%) of 2,3,5-Trimethyl-4-hydroxyphenylthiocyanate in a form pure enough for the next step in the synthesis. An analytical sample was recrystallized from hexanes : white crystals, mp 100.3° C. 1H NMR (CDCl3) δ 7.2 (s, 1 H), 5.0 (s, 1 H) 2.4 (s, 3 H), 2.2 (s, 6 H).

reactant | 2,3,6-trimethylphenol | 11.8 mmol, 1.6 g | CC1=C(C(=CC=C1C)C)O | C9H12O
reactant | Ammonium thiocyanate | 28,9 mmol, 2.2 g | [S-]C#N.[NH4+]
solvent | methanol | 50 mL | CO | CH4O
product | 2,3,5-Trimethyl-4-hydroxyphenylthiocyanate | 2.20 g, 97% | CC1=C(C=C(C(=C1C)O)C)SC#N | C10H11NOS
